US03954438
6-Chloro-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole
To a solution of 11.0g. (0.04 mole) of 6-chloro-1-ethyl-2-methyl-5-trifluoromethylbenzimidazole dissolved in 110 ml. of concentrated sulfuric acid was added 11 ml. of 90% fuming nitric acid while cooling with an ice bath. The addition required 3 hours and the resulting red-brown solution was stirred for 6 hours at 0°C. and then at room temperature for 2.5 days. After pouring onto ice, the product was precipitated by the addition of 350 ml. of concentrated ammonium hydroxide. The crude solid was isolated and dissolved in 300 ml. of chloroform. The chloroform solution was washed with water, dried over Na2SO4, filtered, and the filtrate evaporated. Crystallization of the residual solid from hexane --CCl4 (3:1) gave 9.0g. (70%) of reddish solid, m.p. 114°-116°C., whose nuclear magnetic resonance pattern confirmed it to be the desired product.

reactant | 6-chloro-1-ethyl-2-methyl-5-trifluoromethylbenzimidazole | 0.04 mole | ClC=1C(=CC2=C(N(C(=N2)C)CC)C1)C(F)(F)F | C11H10ClF3N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 6-Chloro-1-ethyl-2-methyl-7-nitro-5-trifluoromethylbenzimidazole | ClC=1C(=CC2=C(N(C(=N2)C)CC)C1[N+](=O)[O-])C(F)(F)F | C11H9ClF3N3O2
